US07060827B2
In like manner to the preparation of N4-(3-chloro-4-trifluoromethoxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidineamine, the reaction of 2-chloro-5-fluoro-N4-(3,4-ethylenedioxyphenyl)-4-pyrimidineamine with 4-methoxy-2-methylaniline gave N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(4-methoxy-2-methylphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 10.30 (bs, 1H), 9.10 (bs, 1H), 8.22 (d, 1H, J=5.1 Hz), 7.55 (m, 1H), 7.15 (m, 1H), 7.07 (m, 1H), 6.92 (m, 2H), 6.82 (d, 1H, J=8.7 Hz), 4.22 (bs, 4H), 3.80 (s, 3H), 2.15 (s, 3H); LCMS: purity: 94%; MS (m/e): 383 (MH+).

reactant | 2-chloro-5-fluoro-N4-(3,4-ethylenedioxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 4-methoxy-2-methylaniline | COC1=CC(=C(N)C=C1)C | C8H11NO
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(4-methoxy-2-methylphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=C(C=C(C=C1)OC)C | C20H19FN4O3
